* Z:\mnt\design.r\spice\examples\3115-2.asc
R1 N008 0 47.5K
C1 N007 0 4.7µ
V1 IN 0 12
L1 N001 N002 10µ Rser=5m
C2 N001 N003 .1µ
C3 N002 N004 .1µ
R2 OUT N006 1Meg
R3 N006 0 249K
C4 N005 N006 3300p Rser=137K
C5 OUT N006 33p Rser=15K
C6 OUT 0 47µ x2 V=10 Irms=10.206 Rser=0.005 Lser=0 mfg="KEMET" pn="C1210C226K8PAC" type="X5R"
Rload OUT 0 2.5
XU1 0 IN N002 OUT 0 MP_01 N005 N006 N008 MP_02 MP_03 N007 IN N007 N004 N003 IN N001 N007 LTC3115-2
.tran 5m startup
.softstart .4
* Using the LTspice built-in directive ".softstart", you can reduce the softstart\ntime of some products models' internal softstart.  ".softstart .4" directs the\nmodel to execute its internal softstart in 40% of the true start-up time.
.lib LTC3115-2.sub
.backanno
.end
